US08071584B2
5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxylic acid
Ethyl 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxylate (0.380 g, 0.949 mmol), was stirred in a methanol (5 mL)/water (3 mL) solution. 6M NaOH (1.5 mL, 0.900 mol, 10 eq) was added and the reaction was heated to 85° C. for 1.5 hours. The methanol was concentrated and the aqueous solution was acidified with 6M HCl. The resulting white solid was filtered and dried under vacuum to give 0.325 g (92%) of the title compound.

reactant | Ethyl 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxylate | 0.949 mmol, 0.380 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CS(CCC1)(=O)=O | C16H18BrNO4S
reactant | methanol | 5 mL | CO | CH4O
reactant | NaOH | 0.900 mol, 6M, 1.5 mL, 10 eq | [OH-].[Na+]
solvent | water | 3 mL | O | H2O
product | 5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxylic acid | 0.325 g, 92% | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CS(CCC1)(=O)=O | C14H14BrNO4S
